US05405861
In a manner like that described in Reference Example 25, (2RS,3SR)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol (1.1 g) obtained in Reference Example 42 was allowed to react with methanesulfonyl chloride (0.35 ml), followed by treatment with a 28% sodium methylate methanol solution to afford (2RS,3RS)-2-(2,4-difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyl oxirane. The product was purified by means of a silica gel column chromatography (ethyl acetate: methylene chloride=4:1) to give a yellow oily product (0.8 g).

reactant | (2RS,3SR)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 1.1 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)O)O | C12H13F2N3O2
reactant | methanesulfonyl chloride | 0.35 ml | CS(=O)(=O)Cl | CH3ClO2S
product | (2RS,3RS)-2-(2,4-difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyl oxirane | FC1=C(C=CC(=C1)F)C1(OC1C)CN1N=CN=C1 | C12H11F2N3O
